US04994479
In 2 ml of dimethylformamide were dissolved 190 mg of ethyl 5-hydroxy-1-methoxyindane-2-acetate and 220 mg of p-heptyloxybenzyl chloride. To the solution was added 180 mg of potassium carbonate. The mixture was stirred at 60° C. overnight. After allowing to cool, water and ethyl acetate were added to the mixture. By thoroughly shaking the mixture, the organic layer was separated. After washing with water, drying and concentrating the organic layer, the residue obtained was purified by flash chromatography (eluant: toluene/ethyl acetate (25/1)) to obtain 220 mg of ethyl 5-(p-heptyloxybenzyloxy)-1-methoxy-2-indaneacetate as a colorless oily product.

reactant | ethyl 5-hydroxy-1-methoxyindane-2-acetate | 190 mg | OC=1C=C2CC(C(C2=CC1)OC)CC(=O)OCC | C14H18O4
reactant | p-heptyloxybenzyl chloride | 220 mg | C(CCCCCC)OC1=CC=C(CCl)C=C1 | C14H21ClO
reactant | potassium carbonate | 180 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 5-(p-heptyloxybenzyloxy)-1-methoxy-2-indaneacetate | 220 mg | C(CCCCCC)OC1=CC=C(COC=2C=C3CC(C(C3=CC2)OC)CC(=O)OCC)C=C1 | C28H38O5
